US08957068B2
To a solution of (R,E)-N-(2,3-difluorobenzylidene)-2-methylpropane-2-sulfinamide (0.800 g, 3.26 mmol) in DCM (32.6 mL), cooled to 0° C. (water/icebath) under N2, was added 3M MeMgBr (4.35 mL, 13.05 mmol) in diethyl ether. Reaction mixture allowed to stir for 30 min at 0° C. Then gradually allowed to warm to room temperature and stirred for 30 min at room temperature. Reaction mixture was cooled to 0° C. then quenched with the slow addition of a saturated solution of NH4Cl and diluted with EtOAc. Phases partitioned aqueous phase extracted with EtOAc and the organic layers combined washed with water, brine, dried with MgSO4, filtered and concentrated to afford (R)—N—((S)-1-(2,3-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide (0.7868 g, 3.01 mmol, 92% yield) as yellow solid. LCMS m/z 262.0 (M+H)+, Rt 0.70 min.

reactant | (R,E)-N-(2,3-difluorobenzylidene)-2-methylpropane-2-sulfinamide | 3.26 mmol, 0.800 g | FC1=C(\C=N\[S@](=O)C(C)(C)C)C=CC=C1F | C11H13F2NOS
reactant | water | O | H2O
reactant | MeMgBr | 13.05 mmol, 3M, 4.35 mL | C[Mg+].[Br-]
solvent | DCM | 32.6 mL | C(Cl)Cl | CH2Cl2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (R)—N—((S)-1-(2,3-difluorophenyl)ethyl)-2-methylpropane-2-sulfinamide | 3.01 mmol, 0.7868 g, 92% yield | FC1=C(C=CC=C1F)[C@H](C)N[S@](=O)C(C)(C)C | C12H17F2NOS
